US06054413
Intermediate 5.2: 1-Allyloxy-5-bromo-2-chloro-4-fluorobenzene
96.5 g (0.7 mol) of potassium carbonate and 54.9 g (0.45 mol) of allylbromide were added to a solution of 78.7 g (0.35 mol) of 5-bromo-2-chloro-4-fluorophenol in 350 ml of dimethylformamide. The reaction mixture was subsequently stirred for 1 hour and stirred into 2.5 l of water. The mixture was then extracted with dichloromethane (three times). The combined organic phases were washed with water (three times) and saturated aqueous sodium chloride solution (once), dried over magnesium sulfate and finally concentrated. The crude product was purified by distillation. Bp.: 106° C. (0.8 mbar); Yield: 85 g.

reactant | potassium carbonate | 0.7 mol, 96.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | allylbromide | 0.45 mol, 54.9 g | C(C=C)Br | C3H5Br
reactant | 5-bromo-2-chloro-4-fluorophenol | 0.35 mol, 78.7 g | BrC=1C(=CC(=C(C1)O)Cl)F | C6H3BrClFO
reactant | water | 2.5 l | O | H2O
solvent | dimethylformamide | 350 ml | CN(C=O)C | C3H7NO
product | 1-Allyloxy-5-bromo-2-chloro-4-fluorobenzene | C(C=C)OC1=C(C=C(C(=C1)Br)F)Cl | C9H7BrClFO
